US04476311
(F) 4-Dimethylaminomethyl-5-(3-methoxyphenyl)-1-phenylpyrrolidin-2-one
To. 22.0 gm. of 5-(3-methoxyphenyl)-1-phenyl-4-(p-toluenesulfonyloxymethyl)pyrrolidin-2-one in 150 ml. of dimethylformamide was added 21 ml. of 40% aqueous dimethylamine, the solution refluxed for 3 hours and then 21 ml. more of 40% aqueous dimethylamine added and reflux continued for an additional 3 hours. After cooling the reaction was decanted into ice water and acidified. Extraction with ether followed by basification of the aqueous phase with potassium carbonate yielded a semi-solid which was extracted with chloroform, dried (Na2SO4), filtered and concentrated in vacuo to a solid. Recrystallization from acetonitrile provided 7.0 gm. of beige crystals, m.p. 88°-92°.

reactant | 5-(3-methoxyphenyl)-1-phenyl-4-(p-toluenesulfonyloxymethyl)pyrrolidin-2-one | COC=1C=C(C=CC1)C1C(CC(N1C1=CC=CC=C1)=O)COS(=O)(=O)C1=CC=C(C=C1)C | C25H25NO5S
reactant | dimethylamine | CNC | C2H7N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Dimethylaminomethyl-5-(3-methoxyphenyl)-1-phenylpyrrolidin-2-one | CN(C)CC1CC(N(C1C1=CC(=CC=C1)OC)C1=CC=CC=C1)=O | C20H24N2O2
